US06809199B2
Step C: 4-Chloro-6-(2,4-difluorophenyl)-5-methyl-2-(methylthio)pyrimidine
A solution of 5.9 g of 6-(2,4-difluorophenyl)-5-methyl-2-(methylthio)pyrimidin-4-ol in 25 mL of POCl3 was heated to reflux and stirred at this temperature for 5 h. All but ca. 5 mL of POCl3 was removed by vacuum distillation, and the residue was quenched by pouring into 200 mL of ice-water, neutralizing with Na2CO3 and extracting with 3×100 mL of EtOAc. The combined organics were washed with 100 mL of brine, dried, and concentrated. The residue was purified by flash chromatography on a Biotage 40M column, eluting with 95:5 hexanes-acetone to yield the title compound as a light yellow solid. Mass spectrum (ESI) 287 (M+1).

reactant | 6-(2,4-difluorophenyl)-5-methyl-2-(methylthio)pyrimidin-4-ol | 5.9 g | FC1=C(C=CC(=C1)F)C1=C(C(=NC(=N1)SC)O)C | C12H10F2N2OS
reactant | POCl3 | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(2,4-difluorophenyl)-5-methyl-2-(methylthio)pyrimidine | ClC1=NC(=NC(=C1C)C1=C(C=C(C=C1)F)F)SC | C12H9ClF2N2S
